### PR TITLE
[Merged by Bors] - chore: replace some `omega`s

### PR DESCRIPTION
**Pull request by SnirBroshi**
None of these had any noticable slowdown.

---
Is it time to add `omega` to the technical debt counters? There are ~250 left.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Defs.lean [hunk 1]
```diff
@@ -170,7 +170,7 @@ def permutationsAux.rec {C : List α → List α → Sort v} (H0 : ∀ is, C []
   | t :: ts, is =>
       H1 t ts is (permutationsAux.rec H0 H1 ts (t :: is)) (permutationsAux.rec H0 H1 is [])
   termination_by ts is => (length ts + length is, length ts)
-  decreasing_by all_goals (simp_wf; omega)
+  decreasing_by all_goals (simp_wf; grind)
```
Comment (grunweg) [inline Mathlib/Data/List/Defs.lean:173]: Can `lia` do it? I find `omega` easier to read than `grind`.

File: Mathlib/Data/List/Infix.lean [hunk 2]
```diff
@@ -323,7 +323,7 @@ lemma map_tails {β : Type*} (g : α → β) : (l.map g).tails = l.tails.map (ma
   induction l using reverseRecOn <;> simp [*]
 
 lemma take_inits {n} : (l.take n).inits = l.inits.take (n + 1) := by
-  apply ext_getElem <;> (simp [take_take] <;> omega)
+  apply ext_getElem <;> (simp [take_take] <;> grind)
```
Comment (grunweg) [inline Mathlib/Data/List/Infix.lean:326]: Same

**Review by grunweg — COMMENTED** [review]
Thanks for doing this!

File: Mathlib/Data/List/Defs.lean (hunk 1 above)
Comment (chenson2018) [reply Mathlib/Data/List/Defs.lean:173]: Not as is, according to [this report](https://leanprover.zulipchat.com/#narrow/channel/595625-nightly-testing-mathlib/topic/nightly-testing.20regression.20log/with/582483663). However if you first simplify `Prod.lex_def` this could work.

File: Mathlib/Data/List/Infix.lean (hunk 2 above)
Comment (chenson2018) [reply Mathlib/Data/List/Infix.lean:326]: Similarly here, `min_def` is what's in the way of `lia` being able to close this.

**Comment by SnirBroshi** [comment]
`lia` can't solve these, should I revert? IMO we should first obsolete & deprecate `omega` and later we can worry about replacing `grind` with `lia`, so I thought they were a step in the right direction.

**Comment by JovanGerb** [comment]
Seems reasonable to me

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
